* LDO netlist 
**.subckt untitled-11
XM12 inn mir VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM2 inp mir VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM3 bg_out mir VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XQ2 GND GND net3 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ3 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ4 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ8 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ10 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ12 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ14 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ16 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ18 GND GND net1 sky130_fd_pr__pnp_05v5_W0p68L0p68
XM15 net2 bg_out GND GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=8 m=8 
XM16 VDD net2 inn GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM17 net2 bg_out VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=5 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2 
XM4 net5 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM19 net5 inp net4 GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM1 mir inn net4 GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM5 mir net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM22 net4 net6 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM7 net6 mir VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM6 net6 net6 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XC1 mir GND sky130_fd_pr__cap_mim_m3_1 W=16 L=16 MF=1 m=1
XR1 net7 inp GND sky130_fd_pr__res_xhigh_po_0p69 L=11.5 mult=1 m=1
XR2 net3 inn GND sky130_fd_pr__res_xhigh_po_0p69 L=11.5 mult=1 m=1
XR3 GND net3 GND sky130_fd_pr__res_xhigh_po_0p69 L=31.5 mult=1 m=1
XR4 net1 net7 GND sky130_fd_pr__res_xhigh_po_0p69 L=4.5 mult=1 m=1
XR5 GND net7 GND sky130_fd_pr__res_xhigh_po_0p69 L=31.5 mult=1 m=1
XR6 GND bg_out GND sky130_fd_pr__res_xhigh_po_0p69 L=31.5 mult=1 m=1
XM8 net9 net9 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM9 net9 bg_out net10 GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=8 m=8 
XM10 net8 pos net10 GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM11 net8 net9 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM13 net10 vb GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8 
XM14 out net8 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=12 m=12 
XM18 out vb GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=12 m=12 
XM20 vb vb GND GND sky130_fd_pr__nfet_g5v0d10v5 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM24 ldo_out net12 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=800 m=800 
XM26 vb mir VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XC3 net8 net11 sky130_fd_pr__cap_mim_m3_1 W=50 L=50 MF=1 m=1
XR7 out net11 GND sky130_fd_pr__res_xhigh_po_0p69 L=4.5 mult=1 m=1
XR8 pos ldo_out GND sky130_fd_pr__res_xhigh_po_0p69 L=9 mult=1 m=1
XR9 GND pos GND sky130_fd_pr__res_xhigh_po_0p69 L=18 mult=1 m=1
Vt net13 GND 0
C2 net12 net13 5G m=1
L1 out net12 5G m=1

**** begin user architecture code


R10 ldo_out GND 36000.0 m=1
Vs VDD GND 2.3
.lib /home/mustafa/mabrains/pdks/share/pdk/sky130A/libs.tech/ngspice/sky130.lib_mod.spice sf_tt
.nodeset v(inn)=1.1
.nodeset v(inp)=1.1
.nodeset v(mir)=0.9
.nodeset v(net5)=0.9
.nodeset v(bg_out)=1.2
.nodeset v(ldo_out)=1.8
.nodeset v(pos)=1.2
.nodeset v(net3)=0.8
.nodeset v(net1)=0.7
.nodeset v(net6)=0.9
.nodeset v(net7)=0.75
.option TEMP=27

*User_defined_functions
.control
define max(vector_name) (vecmax(vector_name))
define min(vector_name) (vecmin(vector_name))
.endc

.control  
op
print all
set wr_singlescale
set wr_vecnames
set appendwrite
if v(ldo_out)>1
wrdata ./corners_run/results/op_point_36000.0_27_2.3_sf_tt v(ldo_out)
end
.endc

*Stability_Analysis
.control
alter Vs AC =0
alter Vt AC =1
ac dec 10 1 1G 
let ph= (180/pi)*vp(out)
meas ac PM FIND ph WHEN vdb(out)=0
set appendwrite
set wr_singlescale
set wr_vecnames
wrdata ./corners_run/results/pm_36000.0_27_2.3_sf_tt PM
.endc
*PSRR_Analysis
.control
alter Vs AC =1
alter Vt AC=0
alter L1 0
alter C2 0
ac dec 10 1 1G
meas AC PSRR100 FIND vdb(ldo_out) AT=100
meas AC PSRR100k FIND vdb(ldo_out) AT=100k
set appendwrite
set wr_singlescale
set wr_vecnames
wrdata ./corners_run/results/psrr_36000.0_27_2.3_sf_tt PSRR100 PSRR100k
.endc


*Temp_sweep
.control
dc temp 85 0 -1
let temp_coeff=1000000*(max(ldo_out)-min(ldo_out))/85
print temp_coeff
set wr_singlescale
set wr_vecnames
set appendwrite
wrdata ./corners_run/results/temp_sweep_36000.0_27_2.3_sf_tt temp_coeff
.endc

*supply_sweep
.control
dc Vs 2.8 0 -0.02
meas DC Vldo_Sup_2 FIND ldo_out AT=2
meas DC Vldo_Sup_2_8 FIND ldo_out AT=2.8
let line_reg=abs((Vldo_Sup_2_8-Vldo_Sup_2)/0.8)
print line_reg
meas DC vin WHEN v(ldo_out)=1.764
let dropout=vin-1.764
print dropout
set wr_singlescale
set wr_vecnames
set appendwrite
wrdata ./corners_run/results/dc_sweep_36000.0_27_2.3_sf_tt dropout line_reg
.endc


.end
